US04922021
A mixture of 6.0 g (20 mmoles) of 1-[N-(2,6-dimethylphenyl)-benzamido]-2-chloro-propane and 10.3 ml (7.3 g, 0.1 mole) of diethyl amine is heated at 160° C. for 12 hours in a steel bomb. The mixture is cooled and processed as described in Example 16. The resulting oily crude base, weighing 5.0 g, is dissolved in 30 ml of diisopropyl ether, the solution is allowed to stand for one day, and then the insolubles are filtered off. The filtrate is evaporated under reduced pressure. 4.35 g (64%) of 1-[N-(2,6-dimethylphenyl)-benzamido]-2-diethylamino-propane are obtained as a yellow oil.

reactant | 1-[N-(2,6-dimethylphenyl)-benzamido]-2-chloro-propane | 20 mmoles, 6.0 g | CC1=C(C(=CC=C1)C)N(C(C1=CC=CC=C1)=O)CC(C)Cl | C18H20ClNO
reactant | diethyl amine | 0.1 mole, 10.3 ml, 7.3 g | C(C)NCC | C4H11N
solvent | diisopropyl ether | 30 ml | C(C)(C)OC(C)C | C6H14O
product | 1-[N-(2,6-dimethylphenyl)-benzamido]-2-diethylamino-propane | 4.35 g, 64% | CC1=C(C(=CC=C1)C)N(C(C1=CC=CC=C1)=O)CC(C)N(CC)CC | C22H30N2O
